US09382226B2
Step D. 5-fluoro-2-(5-fluoropyridin-3-yl)-1-methyl-1H-benzimidazole-6-carbonitrile (399)
To a solution of 4-amino-2-fluoro-5-methylamino-benzonitrile (0.15 g, 0.00090 mol) and 5-Fluoro-pyridine-3-carbaldehyde (0.11 g, 0.0090 mol) in DMF (5 mL) and H2O (2 mL) was added OXONE® monopersulphate (0.19 g, 0.0012 mol). The reaction mixture was stirred at room temperature for 5 h, and was diluted with 10% K2CO3 solution to PH˜8-10 and extracted with EtOAc (3×30 mL). The combined organic layers were washed with brine, dried over Na2SO4 and concentrated under vacuum to afford the crude compound, which was purified by column chromatography to obtain title compound 5-fluoro-2-(5-fluoropyridin-3-yl)-1-methyl-1H-benzimidazole-6-carbonitrile (398) as a brown solid. C14H8F2N4; 1H NMR (400 MHz, DMSO-d6) δ 8.96 (s, 1H), 8.83 (d, J=2.4 Hz, 1H), 8.47 (d, 5.4 Hz, 1H), 8.29 (d, J=9.6 Hz, 1H), 7.88 (d, J=9.6 Hz, 1H), 3.98 (s, 3H); MS (M+1): 271.1. HPLC purity: 99.44%.

reactant | 4-amino-2-fluoro-5-methylamino-benzonitrile | 0.00090 mol, 0.15 g | NC1=CC(=C(C#N)C=C1NC)F | C8H8FN3
reactant | 5-Fluoro-pyridine-3-carbaldehyde | 0.0090 mol, 0.11 g | FC=1C=C(C=NC1)C=O | C6H4FNO
reactant | OXONE | OOS(=O)[O-].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | H2O | 2 mL | O | H2O
solvent | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
product | 5-fluoro-2-(5-fluoropyridin-3-yl)-1-methyl-1H-benzimidazole-6-carbonitrile | FC1=CC2=C(N(C(=N2)C=2C=NC=C(C2)F)C)C=C1C#N | C14H8F2N4
